US05859007
N-Isopropyl-2-[3-methyl-2,4-dioxo-5-phenyl-3-(2-phenylaminoethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl acetamide
To a stirred solution of 135 mg (0.28 mmol) of N-Isopropyl-2-[3-methyl-2,4-dioxo-3-(2-oxoethyl)-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl acetamide, prepared as in Intermediate 9, and 130 mg (1.40 mmol, 5.0 equiv) of aniline in 5 mL of methanol is added 18 mg (0.28 mmol, 1.0 equiv) of NaBH3CN and 1 drop of glacial acetic acid. The resulting mixture is stirred 30 min at RT, then quenched by the addition of 0.1 mL H2O and the solvent removed in vacuo. The residue is then dissolved in 40 mL of EtOAc and extracted with 0.5N HCl (1×40 mL); the organics are dried (MgSO4) and the solvent removed in vacuo. The resulting oil is purified by silica gel flash column chromatography using hexane/EtOAc 2/1 as eluent followed by further purification by reverse phase MPLC using a C-18 column and 60% acetonitrile/40% H2O with 0.1% TFA as eluent followed by lyophilization to afford 120 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz, mixture of conformational isomers) δ7.54-6.73 (m, 19H), 5.04 (m, 1H), 4.54 (d, 0.5H, J=16.6), 4.24 (m, 2H), 3.80 (d, 0.5H, J=16.6), 3.62 (m,1H), 3.34 (m, 0.5H), 2.40 (s, br, 1H), 2.05 (m, 0.5H), 1.80 (m, 0.5H), 1.62 (s, 1H), 1.12 (m, 6H); low resolution MS (FAB)m/e 561 (MH+), 468.

reactant | N-Isopropyl-2-[3-methyl-2,4-dioxo-3-(2-oxoethyl)-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl acetamide | 0.28 mmol, 135 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)(CC=O)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C29H29N3O4
reactant | aniline | 1.40 mmol, 130 mg, 5.0 equiv | NC1=CC=CC=C1 | C6H7N
reactant | NaBH3CN | 0.28 mmol, 18 mg, 1.0 equiv | [BH3-]C#N.[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | N-Isopropyl-2-[3-methyl-2,4-dioxo-5-phenyl-3-(2-phenylaminoethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl acetamide | 120 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)(CCNC1=CC=CC=C1)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C35H36N4O3
